US08357717B2
HCl gas was passed through a solution of methyl 2-benzylisoindoline-5-carboxylate (56 g; 1 equiv.) in 560 ml of dichloromethane until a solid formed. The solid was filtered out, washed with hexane and dried. Methyl 2-benzylisoindoline-5-carboxylate hydrochloride (43 g) was obtained in the form of a white solid.

reactant | HCl | Cl | ClH
reactant | methyl 2-benzylisoindoline-5-carboxylate | 56 g, 1 equiv. | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C(=O)OC | C17H17NO2
solvent | dichloromethane | 560 ml | ClCCl | CH2Cl2
product | Methyl 2-benzylisoindoline-5-carboxylate hydrochloride | 43 g | Cl.C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C(=O)OC | InChI=1S/C17H17NO2.ClH/c1-20-17(19)14-7-8-15-11-18(12-16(15)9-14)10-13-5-3-2-4-6-13;/h2-9H,10-12H2,1H3;1H
